### PR TITLE
feat: expand `Float` API

### LINKED ISSUE #13369: Missing inverse lemmas for Float.ofBits / Float.toBits
## Summary

`Float.ofBits` and `Float.toBits` are declared as `@[extern]` opaque primitives in `Init.Data.Float` but have no accompanying lemmas establishing their inverse relationship:

```lean
@[extern "lean_float_of_bits"] opaque Float.ofBits : UInt64 → Float
@[extern "lean_float_to_bits"] opaque Float.toBits : Float → UInt64
```

There are currently zero theorems about these functions in the standard library.

## Requested additions

```lean
axiom Float.ofBits_toBits (f : Float) : Float.ofBits f.toBits = f
axiom Float.toBits_ofBits (u : UInt64) : (Float.ofBits u).toBits = u
```

Both hold by the C implementation (`lean_float_of_bits` / `lean_float_to_bits` are `memcpy`-based reinterpret casts between `double` and `uint64_t`, which are exact inverses on all IEEE 754 platforms).

## Motivating use case

I maintain a production Lean 4 codebase that uses a typed data model with a positional JSON codec. The codec serializes `Float` values via their exact IEEE-754 bit pattern (`Float.toBits` → `UInt64` → `Nat` → `Json.num`) and decodes the reverse path. Proving the round-trip property (`fromPositionalJson dm (toPositionalJson v) = .ok v`) requires knowing that `Float.ofBits f.toBits = f`.

Without upstream support, I had to introduce a project-local axiom:

```lean
-- lean/Spec/Trusted/FloatBits.lean
axiom float_ofBits_toBits (f : Float) : Float.ofBits f.toBits = f
```

This is the only axiom in the project (714+ sorry-free theorems otherwise). Having this in the standard library would eliminate the need for downstream projects to each introduce their own trusted axiom for the same fact.

## Implementation question

Would the Lean team prefer these as:
1. `axiom` declarations in `Init.Data.Float` (simplest, matches the `opaque` status of the functions), or
2. Some other mechanism (e.g. `native_decide`-backed, or `@[implemented_by]`)?

Happy to open a PR once there's alignment on the approach.

### PR DESCRIPTION
**Pull request by Rob23oba**
This PR expands the `Float` API in several ways. Specifically, it adds:
- `Float32` versions of various `Float` definitions (e.g. `Float32.nan`)
- `Float.pi` and `Float32.pi` for the mathematical constant pi
- Basic lemmas about `Float` and `Float32`, in particular `Float.ofBits_toBits` and `PartialEquivBEq` instances

Furthermore, some modules were renamed, namely `Batteries.Lean.Float` to `Batteries.Data.Float.Basic` and `Batteries.Data.Rat.Float` to `Batteries.Data.Float.Rat`. The corresponding `deprecated_module`s will be added in a follow-up PR. In addition to that, two instances about `JsonNumber` already present in core were removed.

Closes leanprover/lean4#13369

### CODE REVIEW

File: Batteries/Data/Float/Basic.lean [hunk 1]
```diff
@@ -77,6 +82,83 @@ def toStringFull (f : Float) : String :=
...
+    let x := (2^24:Nat).toFloat32 * f'
+    let v := if x < 0 then
+      (-(-x).floor.toUInt32.toNat : Int)
+    else
+      (x.floor.toUInt32.toNat : Int)
+    some (v, exp - 24)
+  else none
+
+/-- Returns `v, exp` integers such that `f = v * 2^exp`.
+Like `toRatParts`, but `e` is guaranteed to be minimal (`n` is always odd), unless `n = 0`.
```
Comment (fgdorais) [inline Batteries/Data/Float/Basic.lean]:
```suggestion
Like `toRatParts`, but `e` is guaranteed to be minimal (`v` is always odd), unless `v = 0`.
```

File: Batteries/Data/Float/Basic.lean [hunk 2]
```diff
@@ -77,6 +82,83 @@ def toStringFull (f : Float) : String :=
...
+    if n == 0 then (0, 0) else
+      let neg : Bool := n < 0
+      let v := n.natAbs.toUInt64
+      let c := trailingZeros v 0
+      let v := (v >>> c.toUInt64).toNat
+      (if neg then -v else v, e + c.toNat)
+where
+  /-- Calculates the number of trailing bits in a `UInt64`. Requires `v ≠ 0`. -/
+  -- Note: it's a bit dumb to be using a loop here, but it is hopefully written
+  -- such that LLVM can tell we are computing trailing bits and do good things to it
```
Comment (fgdorais) [inline Batteries/Data/Float/Basic.lean]: I'm curious if this is true. Check with [Compiler Explorer](https://godbolt.org/)?

File: Batteries/Data/Float/Lemmas.lean [hunk 3]
```diff
@@ -0,0 +1,306 @@
...
+theorem Float.beq_self_eq_false_iff {f : Float} : (f == f) = false ↔ f = nan := by
+  grind [beq_self_iff]
+
+@[simp]
+theorem Float32.beq_self_eq_false_iff {f : Float32} : (f == f) = false ↔ f = nan := by
+  grind [beq_self_iff]
+
+/--
+This theorem is true in general but most other types have `LawfulBEq` where
+`bne_self_eq_false` or `bne_iff_ne` apply.
```
Comment (fgdorais) [inline Batteries/Data/Float/Lemmas.lean]: Do you really mean "true in general" or do you just mean "true"? The phrase "true in general" implies that there are edge cases where it is false. My understanding is that the theorem is true (by definition of `!=`) with the caveat that `f == f` is not always true, as one might expect were `==` a `LawfulBeq` for `Float`.

Please clarify this comment. Same for the next theorem.

File: Batteries/Data/Float/Lemmas.lean [hunk 4]
```diff
@@ -0,0 +1,306 @@
...
+-- but!
+example : ¬ EquivBEq Float := by
+  intro h
+  have : Float.nan == Float.nan := BEq.rfl
+  contradiction
+
+example : ¬ EquivBEq Float32 := by
+  intro h
+  have : Float32.nan == Float32.nan := BEq.rfl
+  contradiction
```
Comment (fgdorais) [inline Batteries/Data/Float/Lemmas.lean]: These should either be theorems or in the module docs.

**Review by fgdorais — CHANGES_REQUESTED** [review]

File: Batteries/Data/Float/Basic.lean (hunk 2 above)
Comment (fgdorais) [reply Batteries/Data/Float/Basic.lean]: It can optimize the loop really well but it doesn't do anything smarter. https://godbolt.org/z/KEGY4K1WE

Comment (Rob23oba) [reply Batteries/Data/Float/Basic.lean]: To clarify, this is a copy of the code above for `Float32`.

Comment (fgdorais) [reply Batteries/Data/Float/Basic.lean]: And so? I don't understand.

Comment (Rob23oba) [reply Batteries/Data/Float/Basic.lean]: Oh that's just to say that I haven't written this code and you're reviewing code that's already in batteries; which isn't bad, having a fresh look at code can definitely help find ways to improve it (or find typos like the one you mentioned) but I just wanted to mention it in case it wasn't clear.

Comment (fgdorais) [reply Batteries/Data/Float/Basic.lean]: Got it!

File: Batteries/Data/Float/Basic.lean [hunk 5]
```diff
@@ -77,6 +82,83 @@ def toStringFull (f : Float) : String :=
...
+  -- TODO: prove termination under suitable assumptions (only relevant if `Float` is not opaque)
```
Comment (fgdorais) [inline Batteries/Data/Float/Basic.lean]:
```suggestion
  -- TODO: optimize and make total
```

**Review by fgdorais — APPROVED** [review]
